SFP reference filter nominal_typical
Vfeed feed 0 DC 3.3 AC 1
Rind feed lx 0.043
Lfilter lx out 4.7e-06
Cbypass out 0 100n
Rcap out cpos 0.0205641004347
Cbulk cpos damp 1.52124066328e-05
Rdamp damp 0 0.43
Rload out 0 1e9
.end
