SFP reference filter sensitivity_high_C_low_L
Vfeed feed 0 DC 3.3 AC 1
Rind feed lx 0.025
Lfilter lx out 3.76e-06
Cbypass out 0 100n
Rcap out cpos 0.005
Cbulk cpos damp 2.42e-05
Rdamp damp 0 0.4257
Rload out 0 1e9
.end
