SFP candidate L011_2C_R068, corner 0
Rind feed lx 1e-09
Lfilter lx out 8.8e-08
Cbypass out 0 100n
Rcap out cpos 0.0025
Cbulk cpos damp 2.2e-05
Rdamp damp 0 0.06732
Vfeed feed 0 DC 3.3 AC 1
.end
